US06846835B2
2-(1-(Iminomethyl)piperidin-4-yl)ethyl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate monohydrobromide
A solution of 50 mg of 2-(1-(iminomethyl)piperidin-4-yl)ethyl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate monohydrochloride in 2 ml of ultrapure water was developed on reversed phase medium pressure liquid chromatography [ODS-AQ 120-S50 (YMC Co.)], and 60 ml of 0.2 M aqueous sodium bromide solution was flowed. After washing with 100 ml of ultrapure water, the title compound was eluted from tetrahydrofuran/water=1/5, and 35 mg thereof was obtained as a colorless solid upon condensation to dry solid.

reactant | 2-(1-(iminomethyl)piperidin-4-yl)ethyl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate monohydrochloride | 50 mg | Cl.FC1(C[C@@H](CC1)[C@](C(=O)OCCC1CCN(CC1)C=N)(C1=CC=CC=C1)O)F
reactant | sodium bromide | 0.2 M, 60 ml | [Br-].[Na+]
solvent | water | 2 ml | O | H2O
product | 2-(1-(Iminomethyl)piperidin-4-yl)ethyl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate monohydrobromide | Br.FC1(C[C@@H](CC1)[C@](C(=O)OCCC1CCN(CC1)C=N)(C1=CC=CC=C1)O)F | InChI=1S/C21H28F2N2O3.BrH/c22-20(23)10-6-18(14-20)21(27,17-4-2-1-3-5-17)19(26)28-13-9-16-7-11-25(15-24)12-8-16;/h1-5,15-16,18,24,27H,6-14H2;1H/t18-,21+;/m1./s1
